US09233985B2
A stirred solution of racemic methyl (3R,4S)-1-(4-fluorobenzoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]-3-[(trifluoroacetyl)amino]pyrrolidine-3-carboxylate (200 mg, 0.377 mmol) in THF (4.2 mL) and water (3.7 mL) was sparged with nitrogen for 5 min. Lithium hydroxide monohydrate (33.2 mg, 0.792 mmol) was added, and the mixture was sparged with nitrogen for 10 min and stirred under nitrogen at room temperature for 4 days, during which additional lithium hydroxide monohydrate (39.6 mg, 0.943 mmol) was added. The mixture was diluted with water (5 mL) and acidified to pH<1 with 3 M aqueous HCl. The resulting solution was washed with ethyl acetate (2×20 mL) and methylene chloride (2×20 mL). The aqueous phase was concentrated under reduced pressure and purified by reverse phase HPLC. Product fractions were pooled, concentrated, re-dissolved in 1M aqueous HCl, concentrated and lyophilized to give racemic (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]-1-(4-fluorobenzoyl)pyrrolidine-3-carboxylic acid hydrochloride (42 mg, 30%) as a white amorphous solid. MS (ESI+) m/z 321 (M−H2O+H+), 303 (M−2H2O+H+) and MS (ESI−) m/z 319 (M−H2O−H+).

reactant | racemic methyl (3R,4S)-1-(4-fluorobenzoyl)-4-[3-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)propyl]-3-[(trifluoroacetyl)amino]pyrrolidine-3-carboxylate | 0.377 mmol, 200 mg | FC1=CC=C(C(=O)N2C[C@]([C@H](C2)CCCB2OC(C(O2)(C)C)(C)C)(C(=O)OC)NC(C(F)(F)F)=O)C=C1 | C24H31BF4N2O6
reactant | Lithium hydroxide monohydrate | 0.792 mmol, 33.2 mg | O.[OH-].[Li+]
reactant | lithium hydroxide monohydrate | 0.943 mmol, 39.6 mg | O.[OH-].[Li+]
reactant | HCl | 3 M | Cl | ClH
solvent | THF | 4.2 mL | C1CCOC1 | C4H8O
solvent | water | 3.7 mL | O | H2O
solvent | water | 5 mL | O | H2O
product | racemic (3R,4S)-3-amino-4-[3-(dihydroxyboryl)propyl]-1-(4-fluorobenzoyl)pyrrolidine-3-carboxylic acid hydrochloride | 42 mg, 30% | Cl.NC1(CN(CC1CCCB(O)O)C(C1=CC=C(C=C1)F)=O)C(=O)O | InChI=1S/C15H20BFN2O5.ClH/c17-12-5-3-10(4-6-12)13(20)19-8-11(2-1-7-16(23)24)15(18,9-19)14(21)22;/h3-6,11,23-24H,1-2,7-9,18H2,(H,21,22);1H
